US08110687B2
To a solution of N-(3-tert-butylphenyl)-7-[(2-cyanopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide (1.184 g, 2.78 mmol) in EtOH (30 mL) was added ethanolamine (1.00 mL, 16.6 mmol) and DIPEA (1.00 mL, 5.74 mmol). The reaction mixture was allowed to stir at 100° C. for 12 h. The mixture was concentrated and the residue was diluted with water and EtOAc. The solution was extracted with EtOAc and the organic solutions were combined, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-(3-tert-butylphenyl)-7-{[2-(4,5-dihydro-1,3-oxazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-305 (1.069 g, 82%) as a white solid. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 9.97 (s, 1H), 9.02 (t, 1H), 8.52 (d, 1H), 7.66-7.62 (m, 1H), 7.52-7.47 (m, 1H), 7.40-7.36 (m, 1H), 7.26-7.17 (m, 3H), 7.08-6.94 (m, 3H), 3.72 (t, 2H), 3.59 (q, 2H), 2.97-2.71 (m, 5H), 2.15-2.06 (m, 1H), 1.85-1.74 (m, 1H), and 1.25 (s, 9H). LCMS: (FA) ES+470.4, ES−468.2.

reactant | N-(3-tert-butylphenyl)-7-[(2-cyanopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 2.78 mmol, 1.184 g | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C#N | C27H27N3O2
reactant | ethanolamine | 16.6 mmol, 1.00 mL | C(O)CN | C2H7NO
reactant | DIPEA | 5.74 mmol, 1.00 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 30 mL | CCO | C2H6O
product | N-(3-tert-butylphenyl)-7-{[2-(4,5-dihydro-1,3-oxazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1OCCN1 | C29H31N3O3
